US07932271B2
(3,6-Dichloropyridin-2-yl)(pyridin-4-yl)methanol
Under stirring at −78° C., t-butyl lithium (a 1.51M pentane solution: 4.6 ml) was added dropwise to an ether (20 ml) solution of 2,5-dichloropyridine (1.02 g, 6.89 mmol). After stirring at −78° C. for 2 hours, pyridine-4-carbaldehyde (0.65 ml, 6.89 mmol) was added to the reaction mixture. The resulting mixture was stirred at −78° C. for 1 hour. Water was then added to the reaction mixture. The temperature of the resulting mixture was raised to room temperature. The mixture was extracted with methylene chloride. The extract was then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography. The fraction obtained from the methanol:methylene chloride (=1:50) eluate was concentrated under reduced pressure. The solid thus obtained was washed with ether and then collected by filtration to give the title compound (819 mg, 3.21 mmol, 47%) as a white powder.

reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | pentane | 1.51M | CCCCC | C5H12
reactant | 2,5-dichloropyridine | 6.89 mmol, 1.02 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | pyridine-4-carbaldehyde | 6.89 mmol, 0.65 ml | N1=CC=C(C=C1)C=O | C6H5NO
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
product | (3,6-Dichloropyridin-2-yl)(pyridin-4-yl)methanol | 3.21 mmol, 819 mg, 47% | ClC=1C(=NC(=CC1)Cl)C(O)C1=CC=NC=C1 | C11H8Cl2N2O
